US06344454B1
4.4 g of 2-oxo-4-phenylvaleric acid ethyl ester is dissolved in 40 ml of tetrahydrofuran and mixed at −78° C. with 3.6 ml of trifluoromethyl-trimethylsilane and 2 ml of 1 M tetrabutylammonium fluoride in tetrahydrofuran. After 24 hours at −78° C., another 20 ml of 1 M tetrabutylammoinum fluoride in tetrahydrofuran is added. It is stirred for 1.5 hours at 0° C., ethyl acetate and saturated common salt solution are added, the organic phase is separated, and it is washed with saturated common salt solution and water. Then, it is dried (Na2SO4) and concentrated by evaporation and distilled on a bulb tube. 4.4 g of 2-hydroxy-4-phenyl-2-trifluoromethyl-valeric acid ethyl ester, boiling point 95-100° C./0.04 hPa, is obtained.

reactant | 2-oxo-4-phenylvaleric acid ethyl ester | 4.4 g | C(C)OC(C(CC(C)C1=CC=CC=C1)=O)=O | C13H16O3
reactant | trifluoromethyl-trimethylsilane | 3.6 ml | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 1 M, 2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | fluoride | 1 M, 20 ml | [F-]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-hydroxy-4-phenyl-2-trifluoromethyl-valeric acid ethyl ester | 4.4 g | C(C)OC(C(CC(C)C1=CC=CC=C1)(C(F)(F)F)O)=O | C14H17F3O3
